US04574126
A solution of 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine (1 g) in ethanol (10 ml) was added over 10 minutes to a solution of dimethylcyanodithioimidocarbonate (0.71 g) in ethanol (15 ml). The solution was stirred for 30 minutes, evaporated to dryness and the residue purified by elution from a column of silica gel with 7.5% methanol/chloroform to yield N-cyano-S-methyl-N'-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethyl]-isothiourea (0.97 g) as a clear oil.

reactant | 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine | 1 g | CN(C)CC1=CC(=NC=C1)CSCCN | C11H19N3S
reactant | dimethylcyanodithioimidocarbonate | 0.71 g | CSC(SC)=NC#N | C4H6N2S2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-cyano-S-methyl-N'-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethyl]-isothiourea | 0.97 g | C(#N)NC(SC)=NCCSCC1=NC=CC(=C1)CN(C)C | C14H21N5S2
